US09353219B1
Preparation of 4,4′-(ethane-1,2-diyl)bis(2-methoxyphenol) (6).
A Parr reaction vessel was charged with (E)-4,4′-(ethene-1,2-diyl)bis(2-methoxyphenol) (2.85 g, 10.5 mmol), THF (50 mL), PtO2 (70 mg), and then placed under hydrogen (30 psig) and allowed to react at ambient temperature for 16 h with continuous agitation. The mixture was filtered through glass wool to remove platinum and the THF was removed under reduced pressure. The solid was washed with hexanes (2×30 mL) and dried under reduced pressure to afford 2.62 g of light brown solid (91% yield). 1H NMR (DMSO-d6) δ 8.66 (s, 2H, Ph-OH), 6.73 (s, 2H), 6.65-6.53 (m, 4H), 3.70 (s, 6H, OMe), 2.70 (s, 4H, CH2); 13C NMR (DMSO-d6): δ 147.7, 144.9, 133.1, 120.9, 115.6, 113.1, 56.0 (OMe), 37.6 (CH2).

reactant | (E)-4,4′-(ethene-1,2-diyl)bis(2-methoxyphenol) | 10.5 mmol, 2.85 g | C(=C\C1=CC(=C(C=C1)O)OC)/C1=CC(=C(C=C1)O)OC | C16H16O4
catalyst | PtO2 | 70 mg | O=[Pt]=O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4,4′-(ethane-1,2-diyl)bis(2-methoxyphenol) | 91% yield | C(CC1=CC(=C(C=C1)O)OC)C1=CC(=C(C=C1)O)OC | C16H18O4
